US06429214B1
2-(4-tert-Butoxycarbonyl-2-nitro-benzylidene)-succinic acid dimethyl ester
Triphenylphosphine (13.3 g, 50.7 mmol) and dimethyl maleate (7.31 g, 50.7 mmol) were combined in glacial acetic acid (62 mL) at 25° C. and stirred for 6 h whereupon benzene (164 mL) and 4-formyl-3-nitro-benzoic acid tert-butyl ester (8.5 g, 33.8 mmol) was added. The dark solution was heated at reflux for 18 h then cooled to 25° C. Concentration in vacuo gave a dark oil. Flash chromatography (silica gel, hexane/ethyl acetate) affords the title compound as an amber oil (11.1 g, 87%). NMR (dmso-d6, 300 MHz) : δ1.6 (s, 9H, tert-butyl), 3.3 (s, 2H, CH2), 3.6 (s, 3H, CH3), 3.8 (s, 3H, CH3), 7.5-8.6 (m, 4H, ArH, ArCH).

reactant | Triphenylphosphine | 50.7 mmol, 13.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethyl maleate | 50.7 mmol, 7.31 g | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | benzene | 164 mL | C1=CC=CC=C1 | C6H6
reactant | 4-formyl-3-nitro-benzoic acid tert-butyl ester | 33.8 mmol, 8.5 g | C(C)(C)(C)OC(C1=CC(=C(C=C1)C=O)[N+](=O)[O-])=O | C12H13NO5
solvent | acetic acid | 62 mL | C(C)(=O)O | C2H4O2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(4-tert-Butoxycarbonyl-2-nitro-benzylidene)-succinic acid dimethyl ester | 11.1 g, 87% | COC(C(CC(=O)OC)=CC1=C(C=C(C=C1)C(=O)OC(C)(C)C)[N+](=O)[O-])=O | C18H21NO8
